US08212041B2
A 48 mL tube was charged with 6-(dimethylamino)pyridin-3-ylboronic acid (0.109 g, 0.658 mmol), 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline (0.150 g, 0.439 mmol), and DMF (3.00 ml, 38.6 mmol), and stirred for 10 minutes. A solution of potassium carbonate (0.182 g, 1.32 mmol) and water (0.696 ml, 38.6 mmol) was added, followed by PdCl2(dppf)-CH2Cl2Adduct (0.0358 g, 0.0439 mmol). The tube was flushed with argon, sealed, and heated in a 80° C. oil bath for 5 hours. The mixture was concentrated, and the residue was triturated with water to give a brown solid which was purified by MPLC using a 40 g column, eluting with 1-5% MeOH/DCM over 40 minutes to give 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-N,N-dimethylpyridin-2-amine as a dark green solid.

reactant | 6-(dimethylamino)pyridin-3-ylboronic acid | 0.658 mmol, 0.109 g | CN(C1=CC=C(C=N1)B(O)O)C | C7H11BN2O2
reactant | 4-((6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methoxy)-7-methoxyquinoline | 0.439 mmol, 0.150 g | ClC=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C16H12ClN5O2
reactant | DMF | 38.6 mmol, 3.00 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 1.32 mmol, 0.182 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 38.6 mmol, 0.696 ml | O | H2O
product | 5-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)-N,N-dimethylpyridin-2-amine | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1N=C(C=C2)C=2C=CC(=NC2)N(C)C | C23H21N7O2
